US07579469B2
A mixture of 1-[4-(5-fluoro-2-hydroxyphenyl)-2-hydroxy-4-methyl-2-trifluoromethylpentyl]-1H-quinolin-4-one (0.05 g), methyl 2-chloro-2,2-difluoroacetate (0.014 mL) and cesium carbonate (0.195 g) in 1.5 mL of DMF was heated at 60° C. for 20 hours, cooled to room temperature, diluted with ethyl acetate, and washed with aqueous acetic acid, water, and brine. The residue was purified by reverse-phase HPLC using acetonitrile/water as the eluent. The product rich fractions were concentrated in vacuo and provided 1-[4-(2-difluoromethoxy-5-fluorophenyl)-2-hydroxy-4-methyl-2-trifluoromethylpentyl]-1H-quinolin-4-one, m.p. 150° C.-155° C.

reactant | 1-[4-(5-fluoro-2-hydroxyphenyl)-2-hydroxy-4-methyl-2-trifluoromethylpentyl]-1H-quinolin-4-one | 0.05 g | FC=1C=CC(=C(C1)C(CC(CN1C=CC(C2=CC=CC=C12)=O)(C(F)(F)F)O)(C)C)O | C22H21F4NO3
reactant | methyl 2-chloro-2,2-difluoroacetate | 0.014 mL | ClC(C(=O)OC)(F)F | C3H3ClF2O2
reactant | cesium carbonate | 0.195 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-[4-(2-difluoromethoxy-5-fluorophenyl)-2-hydroxy-4-methyl-2-trifluoromethylpentyl]-1H-quinolin-4-one | FC(OC1=C(C=C(C=C1)F)C(CC(CN1C=CC(C2=CC=CC=C12)=O)(C(F)(F)F)O)(C)C)F | C23H21F6NO3
